US07820680B2
Step 2: N′-Benzyl-4-(4-fluorobenzyl)-3-oxopiperazine-1-carboximidamide
A solution of 4-(4-fluorobenzyl)-3-oxopiperazine-1-carbonitrile (0.56 g, 2.40 mmol) and benzylamine (0.53 mL, 4.80 mmol) in 1,1,1,3,3,3-hexafluoroisopropanol (10 mL) was heated to reflux overnight. The solvent was removed in vacuo and the residue was purified by prep HPLC on a C18 column eluting with a water/acetonitrile/TFA gradient. The pure fractions were concentrated to an oil. The oil was partitioned between aqueous sat. NH4Cl and chloroform. The layers were separated and the aqueous layer was extracted twice more with chloroform. The combined organic extracts were dried over Na2SO4, filtered, and concentrated to give an oil for the title compound. 1H NMR (400 MHz, d6 DMSO) before work-up δ 8.29 (t, 1H, J=5.5 Hz), 7.81 (bs, 2H), 7.29-7.40 (m, 7H), 7.19 (t, 2H, J=8.8 Hz), 4.56 (s, 2H), 4.45 (d, 2H, J=5.7 Hz), 4.15 (s, 2H), 3.67 (m, 2H), and 3.39 (m, 2H). ES MS (M+1)=341.3.

reactant | 4-(4-fluorobenzyl)-3-oxopiperazine-1-carbonitrile | 2.40 mmol, 0.56 g | FC1=CC=C(CN2C(CN(CC2)C#N)=O)C=C1 | C12H12FN3O
reactant | benzylamine | 4.80 mmol, 0.53 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | 1,1,1,3,3,3-hexafluoroisopropanol | 10 mL | C(C(F)(F)F)(C(F)(F)F)O | C3H2F6O
product | N′-Benzyl-4-(4-fluorobenzyl)-3-oxopiperazine-1-carboximidamide | C(C1=CC=CC=C1)N=C(N)N1CC(N(CC1)CC1=CC=C(C=C1)F)=O | C19H21FN4O
